US07157577B2
To a suspension of 1.18 g of 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid (5 mmol) in dichloromethane (25 mL) was added 0.97 g (6 mmol) of carbonyldiimidazole. After stirring at room temperature for 2 hours, 2.1 mL (20 mmol) of diethylamine was added. The mixture was stirred at room temperature overnight. The reaction was concentrated and the residue dissolved in dichloromethane, washed with brine, dried and concentrated to give 1.2 g (83% yield) of 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-N,N-diethyl-propionamide as a white solid. 1H-NMR (360 MHz, dimethylsulfoxide-d6) δ 10.91 (br s, 1H, NH), 6.46 (s, 1H), 3.20–3.29 (m, 4H, 2×CH2), 2.72–2.76 (m, 2H, CH2), 2.57 (s, 2H, CH2), 2.45 (m, 2H, CH2), 2.17 (s, 2H, CH2), 0.96–1.06 (m, 12H, 4×CH3). MS m/z 290 [M+].

reactant | 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 5 mmol, 1.18 g | CC1(CC(C=2C(=CNC2C1)CCC(=O)O)=O)C | C13H17NO3
reactant | carbonyldiimidazole | 6 mmol, 0.97 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | diethylamine | 20 mmol, 2.1 mL | C(C)NCC | C4H11N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-N,N-diethyl-propionamide | 1.2 g, 83% yield | CC1(CC(C=2C(=CNC2C1)CCC(=O)N(CC)CC)=O)C | C17H26N2O2
